US08476434B2
Step 2: Preparation of 2-(2-Pyrrolidin-1-yl-ethoxy)-5-trifluoromethyl-phenylamine
To a solution of 1-[2-(2-Nitro-4-trifluoromethyl-phenoxy)-ethyl]-pyrrolidine (1.70 g, 5.59 mmol) in dry MeOH (56 mL) was added Pd/C (10%, 350 mg). H2 gas was bubbled through the solution, which was then stirred vigorously under an atmosphere of H2. After completion of the reaction by LCMS, the mixture was filtered through celite and concentrated to afford the desired product as a yellow/orange oil. MS (M+H)+=275; Calc'd 274.29 for C13H17F3N2O.

reactant | 1-[2-(2-Nitro-4-trifluoromethyl-phenoxy)-ethyl]-pyrrolidine | 5.59 mmol, 1.70 g | [N+](=O)([O-])C1=C(OCCN2CCCC2)C=CC(=C1)C(F)(F)F | C13H15F3N2O3
solvent | MeOH | 56 mL | CO | CH4O
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | 2-(2-Pyrrolidin-1-yl-ethoxy)-5-trifluoromethyl-phenylamine | N1(CCCC1)CCOC1=C(C=C(C=C1)C(F)(F)F)N | C13H17F3N2O
